US06063810
25 ml of concentrated sulphuric acid are introduced into a 100 ml three-necked flask equipped with a thermometer and a 10 ml dropping funnel and cooling is carried out to between -15 and 0° C. with a bath of solid carbon dioxide in acetone. 3-(2-Bromophenoxy)-2-butanone (5 g, 20.6 mmol) is added dropwise and stirring is continued for 5 min. The mixture is poured onto crushed ice and then extraction is carried out with ethyl acetate (3×80 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. The residue is purified by silica column chromatography (elution solvent: cyclohexane). 4.24 g (Yield: 91%) of 2,3-dimethyl-7-bromobenzofuran are obtained--M.p.: 33° C.

reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 3-(2-Bromophenoxy)-2-butanone | 20.6 mmol, 5 g | BrC1=C(OC(C(C)=O)C)C=CC=C1 | C10H11BrO2
solvent | acetone | CC(=O)C | C3H6O
product | 2,3-dimethyl-7-bromobenzofuran | 4.24 g, Yield: 91% | CC=1OC2=C(C1C)C=CC=C2Br | C10H9BrO
